US07939661B2
Step 1: 4-(Pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 3-aminopyridine (2.60 g, 27.60 mmol, 1.0 equiv; commercially available) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.50 g, 27.60 mmol, 1.0 equiv; commercially available) in conc. acetic acid (1.57 mL, 1.66 g, 27.60 mmol, 1.0 equiv) and dichloroethane (50 mL) was stirred at rt for 4 h. Sodium triacetoxyborohydride (7.02 g, 33.12 mmol, 1.2 equiv) was added in one portion and the reaction mixture stirred for an additional time period of 16 h. To the reaction mixture was added a sat. solution of NaCl (2×50 mL) and the crude extracted with ethyl acetate (3×100 mL). The combined organic phases were washed over a sat. solution of Na2CO3 (50 mL), dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with silica column chromatography eluting with a gradient of dichloromethane/methanol (10:0→4:1) to yield 3.60 g (47%) of the title compound in 90% purity according to 1H NMR. 1H NMR (360 MHz, CDCl3): δ 1.28-1.41 (m, 2H), 1.47 (s, 9H), 2.04 (dd, J=12.8 Hz, J=2.6 Hz, 2H), 2.93 (t, J=12.3 Hz, 2H), 3.44 (br s, 1H), 3.58 (br s, 1H), 4.07 (d, J=10.7 Hz, 2H), 6.83-6.91 (m, 1H), 7.08 (dd, J=8.2 Hz, J=4.5 Hz, 1H), 7.96 (d, J=3.6 Hz, 1H), 8.02 (d, J=2.5 Hz, 1H). MS (ESI): 278.5 [M+H]+.

reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 27.60 mmol, 1.57 mL, 1.66 g, 1.0 equiv | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
reactant | Sodium triacetoxyborohydride | 33.12 mmol, 7.02 g, 1.2 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NaCl | 50 mL | [Na+].[Cl-]
product | 4-(Pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.60 g, 47% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC=CC1 | C15H23N3O2
